US05359134
Example 1 - Preparation of Cyclohexyl-p-Xylene
p-Xylene (50 g, 0.47 moles), 2 g (0.024 moles) of cyclohexene and 1 g of Y-20 zeolite catalyst were placed in a 100 M1, 3-neck flask bottle with a stirrer and water condenser. The flask was purged with nitrogen and the reaction mixture heated until refluxing began at 126° C.. Cyclohexene was added in 2 g increments and the reflux temperature gradually increased to 141° C. A total of 12 g of cyclohexene was added during a total reaction time of 7 hours.

reactant | p-Xylene | 0.47 moles, 50 g | CC=1C=CC(=CC1)C | C8H10
reactant | cyclohexene | 0.024 moles, 2 g | C1=CCCCC1 | C6H10
product | Cyclohexyl-p-Xylene | C1(CCCCC1)C1=C(C=CC(=C1)C)C | C14H20
